US09163011B2
e) 3-Chloro-5-trifluoromethyl-pyridine-2-carboxylic acid [6-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-5-fluoro-pyridin-2-yl]-amide
To a solution of ((R)-4-{6-[(3-chloro-5-trifluoromethyl-pyridine-2-carbonyl)-amino]-3-fluoro-pyridin-2-yl}-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl)-carbamic acid tert-butyl ester (180 mg, 0.317 mmol) in DCM (1.5 ml) was added TFA (0.5 ml) and the mixture was stirred at it for 1 h. The reaction mixture was poured on 10% aq. Na2CO3, more DCM was added and the layers were separated. The aq. phase was extracted with DCM (3×), the combined DCM phases were dried with K2CO3 and evaporated to provide the title compound as colorless solid.

reactant | ((R)-4-{6-[(3-chloro-5-trifluoromethyl-pyridine-2-carbonyl)-amino]-3-fluoro-pyridin-2-yl}-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl)-carbamic acid tert-butyl ester | 0.317 mmol, 180 mg | C(C)(C)(C)OC(NC=1OCC([C@@](N1)(C)C1=NC(=CC=C1F)NC(=O)C1=NC=C(C=C1Cl)C(F)(F)F)(F)F)=O | C22H20ClF6N5O4
reactant | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
product | 3-Chloro-5-trifluoromethyl-pyridine-2-carboxylic acid [6-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-5-fluoro-pyridin-2-yl]-amide | NC=1OCC([C@@](N1)(C)C1=C(C=CC(=N1)NC(=O)C1=NC=C(C=C1Cl)C(F)(F)F)F)(F)F | C17H12ClF6N5O2
